US04418131
A. 2-(5-Chlorosulfonyl-8-quinolylhydrazono)acetoacetonitrile
To a 250 ml round-bottom flask fitted with calcium sulfate drying tube was added 4.5 g (0.0126 m) of 2-(5-sulfo-8-quinolylhydrazono)acetoacetonitrile, potassium salt and 45 ml phosphorus oxychloride. The resultant slurry was chilled to <5° C. and 4.5 ml N-methylpyrrolidinone was slowly added. After stirring 1 hour. at 0°-5° C., the slurry was stirred overnight at room temperature followed by quenching in 500 ml ice water. The resultant yellow solid was collected, air dried and recrystallized from 100 ml acetonitrile. Yield 3.0 g yellow needles (70 percent).

reactant | 2-(5-sulfo-8-quinolylhydrazono)acetoacetonitrile | 4.5 g | S(=O)(=O)(O)C1=C2C=CC=NC2=C(C=C1)NN=C(C#N)C(=O)C | C13H10N4O4S
reactant | potassium | [K] | K
reactant | phosphorus oxychloride | 45 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | N-methylpyrrolidinone | 4.5 ml | CN1C(CCC1)=O | C5H9NO
product | 2-(5-Chlorosulfonyl-8-quinolylhydrazono)acetoacetonitrile | ClS(=O)(=O)C1=C2C=CC=NC2=C(C=C1)NN=C(C#N)C(=O)C | C13H9ClN4O3S
